US09283229B2
Step 5: Synthesis of ethyl 4-(tert-butyldimethylsilyloxy)-3-nitro-5-propylbenzoate
A mixture of ethyl 4-hydroxy-3-nitro-5-propylbenzoate (1.5 g, 5.9 mmol), TBSCl (1.3 g, 8.9 mmol) and imidazole (800 mg, 11.8 mmol) in DMF (20 mL) was stirred at 30° C. overnight. A standard aqueous/EtOAc workup was followed by a purification by column chromatography (PE:EtOAc=15:1) to give product as a yellow oil (1.9 g, yield 86%).

reactant | ethyl 4-hydroxy-3-nitro-5-propylbenzoate | 5.9 mmol, 1.5 g | OC1=C(C=C(C(=O)OCC)C=C1CCC)[N+](=O)[O-] | C12H15NO5
reactant | TBSCl | 8.9 mmol, 1.3 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 11.8 mmol, 800 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 4-(tert-butyldimethylsilyloxy)-3-nitro-5-propylbenzoate | 1.9 g, yield 86% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C(=O)OCC)C=C1CCC)[N+](=O)[O-] | C18H29NO5Si
